US07019034B2
(E)-3-(3-ethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2-fluoropent-2-enal (Intermediate 5)
A solution of (E)-3-(3-ethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2-fluoropent-2-enol (3.55 g, 8.02 mmol) and dichloromethane (125 mL) in acetonitrile (25 mL) was treated with tetrapropylammonium peruthenate (0.476 g, 1.45 mmol), 4 Å molecular sieves (0.442 g), and N-methylmorpholine-N-oxide (2.78 g, 23.8 mmol), and the mixture was stirred for 0.5 h at ambient temperature. The solution was filtered through a sintered glass funnel containing a bed of silica gel about 1 inch thick using 20% ethyl acetate in hexane as the eluent. The solvent was removed in vacuo to give the title compound.

reactant | (E)-3-(3-ethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2-fluoropent-2-enol | 8.02 mmol, 3.55 g | C(C)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C(=C(\CO)/F)/CC | C21H31FO2
reactant | dichloromethane | 125 mL | ClCCl | CH2Cl2
reactant | tetrapropylammonium | 1.45 mmol, 0.476 g | C(CC)[N+](CCC)(CCC)CCC
reactant | N-methylmorpholine-N-oxide | 23.8 mmol, 2.78 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (E)-3-(3-ethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2-fluoropent-2-enal | C(C)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C(=C(\C=O)/F)/CC | C21H29FO2
